datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C(N(C2=CC=CC=C2)[C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N(C4=CC=CC=C4)C4=CC=CC=C4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C=C1.CC[O:62]/[C:11](=[CH:10]/[C:71]#[N:72])[O-:12]>>CC[O:62][C:11]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C2=CC=CC=C2)C2=CC=CC=C2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C2=CC=CC=C2)C2=CC=CC=C2)[CH:45]=[CH:46]1)[C:71]#[N:72])=[O:12] 10,11=10,20;12=11,12"
"CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]CC[O:62]2)S1.C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1>>CC1=CC=[C:10]([CH:20]([N:21](C)C)[C:31]2=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]2)S1.FC(F)(F)C1=CC(C(F)(F)F)=CC([B-:11]2=[O+:12]CC[O:62]2)=C1 10,11=10,20;12=11,12;20,21=21"
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.C[Zr:11]12345678([CH3:10])(C9C1C2C3C94)C1C5C6C7C18>>C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH:20]([CH3:10])[C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.C[Zr+:11]12345678(C9C1C2C3C94)C1C5C6C7C18 10,11=10,20"
"CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10]2=CC=C(C)S2)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)O[B-:63](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH2:62]/[CH:11]=[CH:10]/C)OC1(C)C.C[C:20]1=[CH:21][C:22](=[O:23])CC1>>CC1(C)O[B-:63](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH2:62][CH+:11][CH:10](C)[C:20]2(C)CC[C:22]([O-:23])=[CH:21]2)OC1(C)C 10,11=10,20;20,21=21,22;22,23=23"
CC[O:61][C:111]([C-:10]([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:112].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC[O:61][C:111]([C:10]([CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1)([C:72](=[O:73])[O:83]CC)[C:92](=[O:93])[O:103]CC)=[O:112] 10=20
"C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1.CC[Si:11](CC)(CC)[H:10]>>C1C[O:33][C:22]([O-:23])=[CH:21][CH:20]1[H:10].CC[Si+:11](CC)CC 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-:21]23([P+](OC4=CC=CC=C4)(OC4=CC=CC=C4)OC4=CC=CC=C4)C(C4=CC=CC=C4)C2[CH2:20]3)C=C1.C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCCC1>>C[Si:63](C)(C)[O+:12]=[C:11]1CCCC[CH:10]1[CH2:20]C1C(C2=CC=CC=C2)[Pd-2:21]1([P+](OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1)[P+](OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21"
"F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1=[O:21].O=[N+]([O-])[C:73]1=[CH:74][CH:82]=[CH:83][C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[CH:72]1>>O=[N+]([O-])[C:73]1=[CH:74][CH:82]=[CH:83][C:71]([CH:10]([N+:11](=[O:12])[O-:62])[C:20]2([O-:21])[C:31](F)=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41]2F)=[CH:72]1 10,11=10,20;12=11,12;20,21=21"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.C[C:11]1([H:10])[CH:62]=[C:63](C)[CH2:64][C:73](C)=[CH:72]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.C[C+:11]1[CH:62]=[C:63](C)[CH2:64][C:73](C)=[CH:72]1 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1[C:11](=[CH:10]C2=CC=C([N+](=O)[O-])C=C2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1.[O-][N+]1=[C:33]2[C:32](=NO1)[C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]1=[N+:42]([O-])O[N:35]=[C:34]21>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:12]1=[C:11]([CH:10](C2=CC=C([N+](=O)[O-])C=C2)[CH:20]2[C:21](=[N+:22]([O-])[O-:23])[C:32]3=NO[N+]([O-])=[C:33]3[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.C[C:11](=[CH2:10])[CH:62]=[CH2:63]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][C+:11](C)[CH:62]=[CH2:63])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"COC1=C[C:61]2=[C:62](C=C1)[NH:12][CH:11]=[N:10]2.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1>>COC1=C[C:61]2=[C:62](C=C1)[NH+:12]=[CH:11][N:10]2[CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21"
CC(C)(C)[P:10](C1=CC=CC=C1)C(C)(C)C.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CC(C)(C)[P+:10](C1=CC=CC=C1)(C(C)(C)C)[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10=20
